US07728009B1
Step 1. Preparation of 2,4,5-tribromo-1-ethyl-1H-imidazole
To a suspension of sodium hydride (2.40 g, 60% mineral oil suspension, 60 mmol) in anhydrous DMF (50 ml) is added a solution of 2,4,5-tribromoimidazole (15.09 g, 50 mmol) in DMF (30 ml) at rt. The resulting mixture is stirred at 50° C. for 1 hr, and then cooled to 0° C., followed by the dropwise addition of iodoethane (8.19 g, 52.5 mmol, 1.05 eq.). The mixture is stirred at rt for 1 hr, and then heated to 50° C. for an additional 8 hr. The reaction mixture is cooled to rt, and poured into ice-water (200 ml). The mixture is extracted with EtOAc (100 ml×3). The combined organic layers are washed with water, brine, dried over anhydrous sodium sulfate, filtered, and solvent evaporated at reduced pressure. The crude product is purified by flash chromatography on silica gel to give the title product. LCMS 330 (M+1).

reactant | sodium hydride | 60 mmol, 2.40 g | [H-].[Na+]
reactant | 2,4,5-tribromoimidazole | 50 mmol, 15.09 g | BrC=1NC(=C(N1)Br)Br | C3HBr3N2
reactant | iodoethane | 52.5 mmol, 8.19 g, 1.05 eq. | ICC | C2H5I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2,4,5-tribromo-1-ethyl-1H-imidazole | BrC=1N(C(=C(N1)Br)Br)CC | C5H5Br3N2
